US07932272B2
C-(5-(3-Fluorophenoxy)thiophen-2-yl)methylamine
To a solution of 5-(3-fluorophenoxy)thiophene-2-carbonitrile described in Preparation Example 22 (670 mg, 3 mmol) in tetrahydrofuran (30 mL) was added lithium aluminum hydride (460 mg, 12 mmol), and the solution was stirred at room temperature for 16 hours. Water and ethyl acetate were added to the reaction solution, which was then partitioned, the organic layer was filtered with NH silica gel, the filtrate was evaporated in vacuo, and the title compound (570 mg, 2.42 mmol, 80.7%) was obtained as a brown oil.

reactant | 5-(3-fluorophenoxy)thiophene-2-carbonitrile | FC=1C=C(OC2=CC=C(S2)C#N)C=CC1 | C11H6FNOS
reactant | lithium aluminum hydride | 12 mmol, 460 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | C-(5-(3-Fluorophenoxy)thiophen-2-yl)methylamine | 2.42 mmol, 570 mg, 80.7% | FC=1C=C(OC2=CC=C(S2)CN)C=CC1 | C11H10FNOS
